data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1c(Cl)cccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1c(Cl)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1c(Cl)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1c(Cl)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1c(Cl)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1c(Cl)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1c(Cl)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1c(Cl)cccc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1c(Cl)cccc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1c(Cl)cccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1c(Cl)cccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1c(Cl)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1c(Cl)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1c(Cl)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1c(Cl)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1c(Cl)cccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CC)c([Si](C)(C)C)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)C)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)C)c(F)c1=C", "products": "CC[Si](C)(C)c1cc2c(c(F)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(OC)c1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1F)C(C)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1F"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1F", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1F"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1F.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1F"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1F", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1F.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12OCC(F)(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(F)(CO1)O2"}, {"reactants": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(F)(CO1)O2.[O-]C", "products": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(F)(CO1)O2"}, {"reactants": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(F)(CO1)O2", "products": "COC12OCC(F)(O1)C1C(=O)C12"}, {"reactants": "COC12OCC(F)(O1)C1C(=O)C12.[O-]C", "products": "COC12OCC(F)(O1)C1C2C1([O-])OC"}, {"reactants": "COC12OCC(F)(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(F)COC1(OC)O2"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(OC)c1F.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1F"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1F", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1F.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(OC)c2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(OC)c2F)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(OC)c1F"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(OC)c1F", "products": "COc1cc2c(c(OC)c1F)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(OC)c1F)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(OC)c1F)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(OC)c1F)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(OC)c1F)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(OC)c1F)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(OC)c1F.[H+]"}]}
